.title KiCad schematic
.include "models/TL072-dual.lib"
.include "models/opa1612c-dual.lib"
.include "models/opa1656c-dual.lib"
V1 Net-_C1-Pad2_ GND dc 0 ac 1
V2 15+ GND dc 15
V3 GND 15- dc 15
C2 Net-_C2-Pad1_ Net-_C1-Pad1_ 330n
C1 Net-_C1-Pad1_ Net-_C1-Pad2_ 330n
C3 Net-_C3-Pad1_ Net-_C3-Pad2_ 330n
C4 Net-_C4-Pad1_ Net-_C3-Pad2_ 330n
R8 Net-_C4-Pad1_ Net-_R7-Pad1_ 2780
R3 Net-_C2-Pad1_ Net-_R2-Pad1_ 2780
R2 Net-_R2-Pad1_ GND 2780
R1 Net-_R1-Pad1_ Net-_C1-Pad1_ 2780
R6 Net-_R10-Pad1_ Net-_C3-Pad2_ 2780
R7 Net-_R7-Pad1_ GND 2780
R10 Net-_R10-Pad1_ TL072_OUT 10k
R4 GND Net-_R1-Pad1_ 2780
R9 GND Net-_R10-Pad1_ 2780
R11 TL072_OUT GND 100k
XU1 Net-_C3-Pad1_ Net-_R1-Pad1_ Net-_C2-Pad1_ 15- Net-_C4-Pad1_ Net-_R10-Pad1_ TL072_OUT 15+ TL072c
R5 Net-_R1-Pad1_ Net-_C3-Pad1_ 10k
C6 Net-_C6-Pad1_ Net-_C5-Pad1_ 330n
C5 Net-_C5-Pad1_ Net-_C1-Pad2_ 330n
C7 Net-_C7-Pad1_ Net-_C7-Pad2_ 330n
C8 Net-_C8-Pad1_ Net-_C7-Pad2_ 330n
R19 Net-_C8-Pad1_ Net-_R18-Pad1_ 2780
R14 Net-_C6-Pad1_ Net-_R13-Pad1_ 2780
R13 Net-_R13-Pad1_ GND 2780
R12 Net-_R12-Pad1_ Net-_C5-Pad1_ 2780
R17 Net-_R17-Pad1_ Net-_C7-Pad2_ 2780
R18 Net-_R18-Pad1_ GND 2780
R21 Net-_R17-Pad1_ OPA1656_OUT 10k
R15 GND Net-_R12-Pad1_ 2780
R20 GND Net-_R17-Pad1_ 2780
R22 OPA1656_OUT GND 100k
XU2 Net-_C7-Pad1_ Net-_R12-Pad1_ Net-_C6-Pad1_ 15- Net-_C8-Pad1_ Net-_R17-Pad1_ OPA1656_OUT 15+ OPA1656c
R16 Net-_R12-Pad1_ Net-_C7-Pad1_ 10k
C10 Net-_C10-Pad1_ Net-_C10-Pad2_ 330n
C9 Net-_C10-Pad2_ Net-_C1-Pad2_ 330n
C11 Net-_C11-Pad1_ Net-_C11-Pad2_ 330n
C12 Net-_C12-Pad1_ Net-_C11-Pad2_ 330n
R30 Net-_C12-Pad1_ Net-_R29-Pad1_ 2780
R25 Net-_C10-Pad1_ Net-_R24-Pad1_ 2780
R24 Net-_R24-Pad1_ GND 2780
R23 Net-_R23-Pad1_ Net-_C10-Pad2_ 2780
R28 Net-_R28-Pad1_ Net-_C11-Pad2_ 2780
R29 Net-_R29-Pad1_ GND 2780
R32 Net-_R28-Pad1_ OPA1612_OUT 10k
R26 GND Net-_R23-Pad1_ 2780
R31 GND Net-_R28-Pad1_ 2780
R33 OPA1612_OUT GND 100k
XU3 Net-_C11-Pad1_ Net-_R23-Pad1_ Net-_C10-Pad1_ 15- Net-_C12-Pad1_ Net-_R28-Pad1_ OPA1612_OUT 15+ OPA1612c
R27 Net-_R23-Pad1_ Net-_C11-Pad1_ 10k
*.ac dec 1k 1 10k 

*.options reltol=0.01 rshunt=1e12

.control
*op
optran 0 0 0 100n 10u 0
*op
*print all
ac dec 10 100 10Meg 
set color0=white
set xbrushwidth=2
plot db(OPA1612_OUT) db(OPA1656_OUT) db(TL072_OUT)
plot cph(OPA1612_OUT) cph(OPA1656_OUT) cph(TL072_OUT)
.endc

.end
